US04377535
If a mixture containing naphthalene-1,3,6-trisulphonic acid, dissolved in sulphuric acid, such as is obtained from the trisulphonation of naphthalene, is employed, then, for example when using a naphthalenetrisulphonic acid solution in about 100% strength sulphuric acid, containing about 33.8% of naphthalene-1,3,6-trisulphonic acid, about 5.8% of naphthalene-1,3,7-trisulphonic acid and about 3.7% of naphthalene-1,3,5-trisulphonic acid, about 96% of theory of nitro-T-acid, about 3% of theory of 1-nitronaphthalene-2,5,7-trisulphonic acid and about 0.5% of theory of 2-nitronaphthalene-3,6,8-trisulphonic acid was obtained as the nitration products of the naphthalene-1,3,6-trisulphonic acid. In that case, about 45% of theory of 1-nitronaphthalene-3,5,7-trisulphonic acid and about 7% of theory of 2-nitronaphthalene-3,5,7-trisulphonic acid are additionally obtained as nitration products of the naphthalene-1,3,7-trisulphonic acid, of which latter compound about 31% of theory remains un-nitrated. Furthermore, about 62% of theory of 1-nitronaphthalene-4,6,8-trisulphonic acid and about 8% of theory of 2-nitronaphthalene-4,6,8-trisulphonic acid are obtained as nitration products of naphthalene-1,3,5-trisulphonic acid, of which latter compound about 19% of theory remains un-nitrated.

reactant | naphthalene-1,3,6-trisulphonic acid | C1(=CC(=CC2=CC(=CC=C12)S(=O)(=O)O)S(=O)(=O)O)S(=O)(=O)O | C10H8O9S3
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
product | naphthalene | C1=CC=CC2=CC=CC=C12 | C10H8
